US06777440B2
Compound B-1: (+)-2,2-Dimethyl-5-oxo-1,3-dioxolane-4-acetic acid, tert-butyldimethylsilyl ester
A solution of (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid (13.20 g, 75.8 mmol) in N,N-dimethylformamide (25 ml) was treated at 22° C. with imidazole (10.56 g, 0.155 mmol) followed by tert-butyldimethylsilyl chloride (12.0 g, 79.6 mmol) and the resulting mixture was stirred at 22° C. for 18 hours. The reaction mixture was then diluted with toluene (500 ml), washed with water (3 times), saturated sodium bicarbonate and brine. After drying (magnesium sulfate), the solvent was evaporated under reduced pressure to give an oil. Distillation under vacuum gave 20.9 g (96% yield) of the title material as a clear oil: Bp 80-90° C./0.1 torr (bulb to bulb distillation, air bath temperature). 1H NMR (400 MHz, CDCl3) δ: 0.33 (s, 3), 0.36 (s, 3), 1.00 (s, 9), 1.11 (s, 3), 1.37 (s, 3), 2.72 (m, 2), 4.35 (dd, 1, J=4, 6).

reactant | (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid | 75.8 mmol, 13.20 g | CC1(OC([C@@H](O1)CC(=O)O)=O)C | C7H10O5
reactant | imidazole | 0.155 mmol, 10.56 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 79.6 mmol, 12.0 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-2,2-Dimethyl-5-oxo-1,3-dioxolane-4-acetic acid, tert-butyldimethylsilyl ester | 20.9 g, 96% yield | CC1(OC(C(O1)CC(=O)O[Si](C)(C)C(C)(C)C)=O)C | C13H24O5Si
